US03952031
2β-n-Butyl-3α-hydroxy-5α-pregnane-11,20-dione
A 2 molar solution of n-butyl lithium in hexane (30 ml., 60mmole) was added to a stirred suspension of cuprous iodide (5.7 g., 30 mmole) in dry ether (90 ml.) under nitrogen at -20°. A cold solution of 2α,3α-epoxy-5α-pregnane-11,20-dione (1.65 g., 5 mmole) in dry ether (260 ml.) was then added and the mixture was maintained at 0° for 70 hr. The reaction mixture was then poured into aqueous ammonium chloride solution and extracted into ethyl acetate.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 60mmole, 30 ml | CCCCCC | C6H14
reactant | 2α,3α-epoxy-5α-pregnane-11,20-dione | 5 mmole, 1.65 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]1(C2)C)=O)C | C21H30O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 90 ml | CCOCC | C4H10O
solvent | ether | 260 ml | CCOCC | C4H10O
product | 2β-n-Butyl-3α-hydroxy-5α-pregnane-11,20-dione | C(CCC)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C25H40O3
